US07687499B2
(4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
4-(4-Formyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester. A suspension of 4-carboxybenzaldehyde (3.10 g) in CH2Cl2 was treated sequentially with piperazine-1-carboxylic acid tert-butyl ester (3.6 g), EDC (3.86 g), HOBt (2.68 g), and DMAP (˜0.020 g). After 18 h, the mixture was extracted with 1 N NaOH and then with 1 N HCl. The organic layer was dried (Na2SO4) and concentrated to give the title compound (5.11 g, 78%). MS (ESI): mass calcd. for C17H22N2O4, 318.16; m/z found, 219.3 [(M-100)+H]+. 1H NMR (CDCl3): 10.04 (s, 1H), 7.93 (d, J=8.2, 2H), 7.54 (d, J=8.1, 2H), 3.82-3.67 (m, 2H), 3.58-3.30 (m, 6H), 1.46 (s, 9H).

reactant | 4-(4-Formyl-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=O)=O | C17H22N2O4
reactant | 4-carboxybenzaldehyde | 3.10 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | piperazine-1-carboxylic acid tert-butyl ester | 3.6 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | HOBt | 2.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | ˜0.020 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EDC | 3.86 g
product | (4-Cyclopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | 5.11 g, 78% | C1(CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H27N3O2
